US09034880B2
A mixture of ethyl 2-(8-chloro-1,2,3,4-tetrahydro-2-methylpyrido[4,3-b]indol-5-yl)acetate (200 mg) and morpholine (2 ml) was heated at 120° C. for 15 h to obtain 27 mg of 2-(8-chloro-1,2,3,4-tetrahydro-2-methylpyrido[4,3-b]indol-5-yl)-1-morpholinoethanone after purification on neutral alumina chromatography eluting with methanol-dichloromethane gradient. The free base was converted into its oxalate salt by treatment of oxalic acid (1 equiv) in anhydrous THF.

reactant | ethyl 2-(8-chloro-1,2,3,4-tetrahydro-2-methylpyrido[4,3-b]indol-5-yl)acetate | 200 mg | ClC1=CC=2C3=C(N(C2C=C1)CC(=O)OCC)CCN(C3)C | C16H19ClN2O2
reactant | morpholine | 2 ml | N1CCOCC1 | C4H9NO
product | 2-(8-chloro-1,2,3,4-tetrahydro-2-methylpyrido[4,3-b]indol-5-yl)-1-morpholinoethanone | 27 mg | ClC1=CC=2C3=C(N(C2C=C1)CC(=O)N1CCOCC1)CCN(C3)C | C18H22ClN3O2
